Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm not fucking talking to you."
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
For further details of the history and presentation, please see 
___ including Dr. ___ and Dr. ___ initial 
consultation notes dated ___. 
. 
Briefly, this is a complicated case of a ___ year old ___ man, fluent in ___, unclear prior psychiatric 
diagnoses but reported history of depression with one prior 
psychiatric history in ___, medical history significant for 
HIV, on HAART (unclear if compliant), secondary syphilis s/p 
treatment, who presented to ___ via EMS after police found him 
with a knife outside of his neighbor's apartment building, 
attempting to break in, stating
there were noises and that he believed people were watching him. 

. 
On initial interview with Dr. ___, patient reported he 
was attempting to get into his neighbor's home because they were 
making a lot of noise. Patient denied having a knife with him 
while this was happening, stating he only had his cell phone. 
Mr. ___ reported that for the past 9 months there have 
been noises coming from the upstairs apartment, which he stated 
sound
like voices. He reported he believed the voices travel through 
the pipes in his walls and stated that even his friends have 
heard these voices, that they are very loud, and do not allow 
him to concentrate on anything. 
. 
Patient also reported that people are watching him in his 
apartment, noting that sometimes when he or is his friends are 
___, the voices will repeat exactly what the texts says. 
Reported hat he is unsure how others are watching him. Also 
reported that the voices have been following him wherever he 
goes
and stated that he believes about 10 people are doing this. Also 
reported several "detective cars" have been following him and 
his friends ___ he goes. Stated he has been able to take 
photographic evidence of the scars, as well as some of the 
detectives themselves on his iPad. Reported that all of his 
friends are aware that this is happening, initially people 
thought he was just paranoid, or crazy, but now he states that 
all of his friends are aware of this happening.  
. 
ED: patient was in adequate behavioral control and did not 
require physical or chemical restraints. 
. 
Upon arrival to the unit, patient was notably irritable, 
threatening, and uncooperative. Per RN, noted to be shouting at 
the nurses that he would "kill you all," slamming the door. 
Refused vital signs and refused to cooperate with admission 
process. Noted to screaming at RN, "get the fuck out of here... 
you don't have power over me, I have the power... you don't wipe 
my ass when I go... I wipe my own!" On my examination, patient 
was agitated, lying in bed, stating, "get the fuck out of 
here... I'm not talking with you or anyone until you make the 
decision to discharge me. I attempted to engage him, stating 
that while I understood that he wanted to leave the hospital, he 
would have to
engage in a discussion regarding the circumstances that led to 
his presentation. Patient continued to refuse, yelling 
profanities at this clinician. Further interview was deferred 
given agitation. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: unclear, reported prior history of depression
- SA/SIB: denies/denies 
- Psychiatrist: Dr. ___ and therapist ___ 
___
- Mediation Trials: Prozac, mirtazapine, Wellbutrin, trazodone 
- Harm to others: denies
- Access to weapons: denies 
. 
Past medical history:
- Secondary syphilis in ___ after presenting to ___ walk in
clinic with several painless macular skin lesions. REceeived
empiric 2.4 million units IM BPG. Trep Ab later returned 
positive
with RPR titer 1:16
- HIV, on HAART with unclear compliance 
- HAV 

 
Social History:
___
Family History:
Denies
 
Physical Exam:
Neuropsychiatric Examination:
*VS:  Patient refuses vital signs 
weight:
  Neurological:
    *station and gait: cannot assess due to agitation 
    *tone and strength: cannot assess due to agitation 
    abnormal movements: no tremors or adventitious movements
noted 
  *Appearance/Behavior: Appears stated age, dressed in hospital
gown, thin, sitting on bed, intense eye contact, hostile with
interviewer, no psychomotor agitation or retardation noted. 
  *Mood and Affect: "Fuck you"/Agitated 
*Thought process: cannot assess due to agitation 
*Thought Content: see HPI, cannot assess due to agitation 
  *Judgment and Insight: poor/poor 
  Cognition:
    *Attention, *orientation, and executive function: awake
alert, cannot formally test due to agitation 
    *Memory: cannot assess due to agitation 
   *Fund of knowledge: cannot assess due to agitation 
   *Speech: normal rate, volume, prosody 
   *Language: fluent, no paraphasic errors 

Physical Examination: Patient refuses at this time, deferred
secondary to agitation 

Discharge Examination: 
VS: 98.0 126/89 78 16 98%RA 
A/B: Appears stated age, dressed in casual clothing, adequate 
hygiene and grooming, no psychomotor agitation or retardation 
noted. Calm, cooperative with interviewer 
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented 
C: awake, alert and oriented x3 
I/J: improved/improved 
 
Pertinent Results:
___ 06:19AM   HCV Ab-NEG
___ 06:19AM   HCV VL-NOT DETECT
___ 05:24AM URINE  HOURS-RANDOM
___ 05:24AM URINE  UHOLD-HOLD
___ 05:24AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 05:24AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 05:24AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*
___ 05:24AM URINE  RBC-<1 WBC-7* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 05:24AM URINE  MUCOUS-RARE*
___ 04:00AM   GLUCOSE-100 UREA N-14 CREAT-0.9 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-99 TOTAL CO2-26 ANION GAP-15
___ 04:00AM   estGFR-Using this
___ 04:00AM   ALT(SGPT)-16 AST(SGOT)-25 ALK PHOS-62 TOT 
BILI-0.3
___ 04:00AM   ALT(SGPT)-16 AST(SGOT)-23 ALK PHOS-58 TOT 
BILI-0.3
___ 04:00AM   ALBUMIN-4.3
___ 04:00AM   VIT B12-928* FOLATE-16
___ 04:00AM   TSH-2.0
___ 04:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:00AM   WBC-9.0 RBC-4.68 HGB-13.7 HCT-41.3 MCV-88 
MCH-29.3 MCHC-33.2 RDW-12.3 RDWSD-39.9
___ 04:00AM   NEUTS-49.1 ___ MONOS-11.1 EOS-11.6* 
BASOS-1.3* IM ___ AbsNeut-4.39 AbsLymp-2.38 AbsMono-1.00* 
AbsEos-1.04* AbsBaso-0.12*
___ 04:00AM   PLT COUNT-286
___ 04:00AM    WBC-9.0  LYMPH-27 ABS LYMPH-2430 CD3-84 ABS 
CD3-___* CD4-37 ABS CD4-904 CD8-45 ABS CD8-1104* CD4/CD8-0.82*
 
Brief Hospital Course:
This is a complicated case of a ___ year old ___ man, 
fluent in ___, unclear prior psychiatric diagnoses but 
reported history of depression with one prior
psychiatric history in ___, medical history significant for 
HIV, on HAART (unclear if compliant), secondary syphilis s/p 
treatment, who presented to ___ via EMS after police found him 
with a knife outside of his neighbor's apartment building,
attempting to break in, stating there were noises and that he 
believed people were watching him. 
. 
Collateral from outpatient team reveal no known history of prior 
psychosis but with concern for onset of psychotic symptoms 
beginning approximately a month ago with significant paranoia, 
auditory hallucinations, delusions, and bizarre behaviors
(attempting to break into his neighbor's apartment with a 
knife). Tox screen positive for amphetamines. 
.
Diagnostically, differential diagnosis is broad and includes 
substance induced psychosis, psychosis secondary to underlying 
medical condition with history of HIV/syphilis (although less 
likely), primary psychotic disorder (although nothing in history 
that would suggest prodromal phase). 
.
#. Legal/Safety: Patient was admitted to ___ Inpatient 
Psychiatric Unit on ___ on a ___ he declined to sign 
a CV and remained on 12b. He was initially placed on security 
constant observation status with no access to sharps as he was 
irritable and verbally threatening to staff, stating he would 
"kill everyone." However, in the setting of sobriety, patient 
became gradually less agitated and was able to maintain his 
safety during the majority of his hospitalization on 15 minute 
checks. Given his refusal to sign a conditional voluntary form 
and his initial refusal to talk with the treatment team, I did 
file a petition for a 7&8b; however, hearing was continued and 
the patient was able to be discharged prior to the court 
hearing. Of note, he did not require physical or chemical 
restraints during his hospitalization. 
.
#. Psychosis: as noted above 
- Patient was initially isolative to room and refused to 
interact with staff or with his treatment team. However, after 
several days, patient's irritability improved significantly and 
he was noted to be social with peers and staff, attending 
groups, where he participated appropriately in his care. 
- Initially patient refused all medications including, but as he 
became more cooperative, was restarted on Prozac 20 mg po qd and 
risperidone as well as Ativan for anxiety and agitation. Prior 
to discharge, risperidone was converted to Invega titrated to 6 
mg po qd, which he tolerated well without complaints of side 
effects. In addition, Trazodone was restarted at 100 mg po qhs 
for insomnia and the Ativan was tapered off given concern for 
substance abuse. 
- Patient's psychosis seemed to improve quite rapidly, and given 
his lack of prior psychosis and lack of prodromal symptoms, most 
likely etiology of presentation is secondary to amphetamine use. 
Although patient did become irritable and agitated at times, at 
one point ripping off a Purell dispenser from the wall after 
learning he would not be discharged on the day he wanted to, by 
time of discharge he was consistently denying suicidal ideation, 
thoughts of self harm, and his thought process was notably 
significantly more linear, goal oriented. He denied that he 
intended on harming others and stated that he was planning on 
following up with his outpatient providers and was interested in 
seeking alternative housing. 
- Of note, prior to discharge, I discussed the case with his 
outpatient treatment team, who stated that the patient tends to 
be chronically irritable and somewhat entitled at baseline. They 
felt comfortable with discharge plan back to their service. 
- Offered the patient a referral to a partial program during his 
hospitalization, which he declined. 
.
#. Amphetamine-Type Use Disorder: Per ED note and collateral, 
patient has reportedly been using crystal meth for ___ years. He 
was provided with counseling regarding the risks and 
consequences, both physically and psychiatrically, of ongoing 
use.
.
#. HIV: Patient's home regimen of Triumeq was unavailable by 
hospital formulary so he was offered the equivalent consisting 
of abacavir 600 mg/dolutegravir 50 mg/lamivudine 300 mg PO 
daily. Initially he consistently refused his HAART regimen, and 
after discussion with ID, it was held. However, as patient's 
mental status cleared, he stated he would like to be restarted 
on his medications, and he became compliant with HAART. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
daily 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 capsule(s) by mouth daily Disp #*15 
Capsule Refills:*0 
2.  PALIperidone ER 6 mg PO DAILY 
RX *paliperidone [Invega] 6 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
3.  TraZODone 100 mg PO QHS 
RX *trazodone 100 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*0 
4.  Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced psychosis 
Methamphetamine use disorder 

 
Discharge Condition:
VS: 98.0   126/89   78   16   98%RA    
A/B: Appears stated age, dressed in casual clothing, adequate 
hygiene and grooming, no psychomotor agitation or retardation 
noted. Calm, cooperative with interviewer 
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, mood congruent, appropriate 
TC: denies SI/HI, AVH
TP: linear, goal and future oriented 
C: awake, alert and oriented x3 
I/J: improved/improved 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___